US08633001B2
4.0 g of pig liver esterase produced by Sigma [PLE (27 kU/g), lyophilized product, product number: E30191 was dissolved in a 0.05 mol/L phosphate buffer adjusted to pH 6.5 (360 mL), and the solution was added with a solution of diethyl 2-benzyloxycarbonylamino-2-ethoxycarbonylsuccinate (4.0 g) dissolved in ethanol (40 mL). The mixture was stirred at 30° C. for 20 hours to obtain (R)-1-ethyl hydrogen 3-benzyloxycarbonylamino-3-ethoxycarbonylsuccinate at a yield of 84% and optical purity of 93.6% ee.

reactant | diethyl 2-benzyloxycarbonylamino-2-ethoxycarbonylsuccinate | 4.0 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OCC)(CC(=O)OCC)C(=O)OCC | C19H25NO8
solvent | phosphate | 0.05 mol/L | P(=O)([O-])([O-])[O-]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | (R)-1-ethyl hydrogen 3-benzyloxycarbonylamino-3-ethoxycarbonylsuccinate | yield of 84% | C(C1=CC=CC=C1)OC(=O)N[C@](CC(=O)OCC)(C(=O)O)C(=O)OCC | C17H21NO8
